US08067445B2
Step 4: (2-Chloro-5-trifluoromethanesulfonyloxy-phenyl)-acetic acid ethyl ester
To a solution of (2-chloro-5-hydroxy-phenyl)-acetic acid ethyl ester (0.177 g, 0.87 mmol) in DMF (5 mL) was added cesium carbonate (0.567 g, 1.74 mmol) and N-phenyl-bis(trifluoromethanesulfonimide) (0.621 g, 1.74 mmol), and the reaction was stirred for 1 hour. After aqueous work-up, the residue was purified by silica gel chromatography to give the title compound.

reactant | (2-chloro-5-hydroxy-phenyl)-acetic acid ethyl ester | 0.87 mmol, 0.177 g | C(C)OC(CC1=C(C=CC(=C1)O)Cl)=O | C10H11ClO3
reactant | cesium carbonate | 1.74 mmol, 0.567 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | N-phenyl-bis(trifluoromethanesulfonimide) | 1.74 mmol, 0.621 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (2-Chloro-5-trifluoromethanesulfonyloxy-phenyl)-acetic acid ethyl ester | C(C)OC(CC1=C(C=CC(=C1)OS(=O)(=O)C(F)(F)F)Cl)=O | C11H10ClF3O5S
